US04298739
3.3 g of 6-{3-[N-methyl-N-(2-methylcyclohexyl)-aminocarbonyl]-2-methylpropoxy}-3,4-dihydrocarbostyril and 3.4 g of 90% DDQ are added to 100 ml of dioxane and this mixture is refluxed for 9.5 hours and then cooled. After the reaction, the solvent is distilled off and the obtained residue is dissolved in chloroform and the organic layer is washed with aqueous saturated NaHCO3 solution, and with water, dried with anhydrous Na2SO4 and then treated with an active charcoal treatment. After distilling off the solvent, the resultant residue is refined by silica gel column chromatography (silica gel: Wakogel C-200; eluent: 10:1 chloroform-methanol (V/V)) and the crude crystals are recrystallized from benzene-ligron to produce 1.2 g of 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril in the form of colorless needle-like crystals. Melting point: 146°-149° C.

reactant | 6-{3-[N-methyl-N-(2-methylcyclohexyl)-aminocarbonyl]-2-methylpropoxy}-3,4-dihydrocarbostyril | 3.3 g | CN(C(=O)CC(COC=1C=C2CCC(NC2=CC1)=O)C)C1C(CCCC1)C | C22H32N2O3
reactant | DDQ | 3.4 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril | 1.2 g | CN(C(=O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C)C1C(CCCC1)C | C22H30N2O3
